US07468457B2
c. Synthesis of 4-[(E)-3-Oxo-(5,5,8,8-tetramethyl-4-p-tolyl-5,6,7,8-tetrahydro-2-naphthyl)propenyl]benzoic Acid
In a similar manner to that of Example 2b, by reacting 770 mg (2.4 mmol) of 1-(5,5,8,8-tetramethyl-4-p-tolyl-5,6,7,8-tetrahydro-2-naphthyl)ethanone with 320 mg (2.2 mmol) of 4-carboxybenzaldehyde and 1.2 mL (10 mmol) of 47% KOH. The desired product is obtained in the form of white crystals (m=780 mg; yield=72%; m.p.=242° C.).

reactant | 1-(5,5,8,8-tetramethyl-4-p-tolyl-5,6,7,8-tetrahydro-2-naphthyl)ethanone | 2.4 mmol, 770 mg | CC1(C=2C(=CC(=CC2C(CC1)(C)C)C(C)=O)C1=CC=C(C=C1)C)C | C23H28O
reactant | 4-carboxybenzaldehyde | 2.2 mmol, 320 mg | C(=O)(O)C1=CC=C(C=O)C=C1 | C8H6O3
reactant | KOH | 10 mmol, 1.2 mL | [OH-].[K+]
product | 4-[(E)-3-Oxo-(5,5,8,8-tetramethyl-4-p-tolyl-5,6,7,8-tetrahydro-2-naphthyl)propenyl]benzoic Acid | yield=72% | O=C(/C=C/C1=CC=C(C(=O)O)C=C1)C1=CC=2C(CCC(C2C(=C1)C1=CC=C(C=C1)C)(C)C)(C)C | C31H32O3
